US05852010
Step G: 2,3-Dihydro-1-(2,2,2-trifluoroethyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepine
A solution of 5-phenyl-1,4-benzodiazepine-2-one (50 g, 0.211 mole) in DMF (100 mL) was treated with cesium carbonate (103.5 g, 0.317 mole) and trifluoroethyl iodide (109.7 g, 0.525 mole). The mixture was stirred at 50° C.-60° C. overnight. The reaction mixture was then poured into water (2 L) and extracted with ethyl acetate (3×1 L). The combined ethyl acetate fractions were dried over anhydrous magnesium sulfate, filtered and concentrated at reduced pressure. The material was chromatographed on silica gel (1.5 Kg) eluting with 1:1 ethyl acetate/heaxane. The combined pure fractions were concentrated at reduced pressure. The residue was swished with warm ethyl ether, cooled and filtered to give the product. MP=130°-131° C.; 1H NMR CDCl3, δ7.65-7.60 (m, 2H), 7.60-7.45 (m, 5H), 7.40-7.20(m, 2H), 5.25 (dq, J=14, 8.6 Hz, 1H), 4.82(d, J=10.5 Hz, 1H), 4.15 (app sextet, J=8.6 Hz, 1H), 3.81 (d, J=10.5 Hz, 1H).

reactant | 5-phenyl-1,4-benzodiazepine-2-one | 0.211 mole, 50 g | C1(=CC=CC=C1)C=1N=CC(N=C2C1C=CC=C2)=O | C15H10N2O
reactant | cesium carbonate | 0.317 mole, 103.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluoroethyl iodide | 0.525 mole, 109.7 g | FC(CI)(F)F | C2H2F3I
reactant | water | 2 L | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2,3-Dihydro-1-(2,2,2-trifluoroethyl)-2-oxo-5-phenyl-1H-1,4-benzodiazepine | FC(CN1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)=O)(F)F | C17H13F3N2O
